US07381719B2
Add methanol (10 mL) to 6-(4-{2-[benzyl-(3-oxo-3-phenyl-propyl)-amino]-ethyl}-phenoxy)-nicotinamide (0.1871 g, 0.3901 mmol) and cool to 0° C. Add sodium borohydride (0.0664 g, 1.756 mmol) and stir for 1.5 h at 0° C. under nitrogen. Pour the reaction into brine (50 mL) and extract with diethyl ether (3×50 mL). Dry the diethyl ether extracts over magnesium sulfate, filter, and concentrate on a rotary evaporator to give the crude product. The crude product is purified by flash chromatography on silica gel eluting with 100% ethyl acetate to yield 0.0239 g (13%) of 6-(4-{2-[benzyl-(3-hydroxy-3-phenyl-propyl)-amino]-ethyl}-phenoxy)-nicotinamide: HPLC (30/70 to 90/10 ACN/(0.1% TFA in water) Zorbax SB-Phenyl Column 4.6 mm×15 cm×5 micron: Retention time: 8.07 minutes, Purity: 99.9%; mass spectrum (ion spray): m/z=482.3 (M+1).

reactant | methanol | 10 mL | CO | CH4O
reactant | 6-(4-{2-[benzyl-(3-oxo-3-phenyl-propyl)-amino]-ethyl}-phenoxy)-nicotinamide | 0.3901 mmol, 0.1871 g | C(C1=CC=CC=C1)N(CCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1)CCC(C1=CC=CC=C1)=O | C30H29N3O3
reactant | sodium borohydride | 1.756 mmol, 0.0664 g | [BH4-].[Na+]
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 6-(4-{2-[benzyl-(3-hydroxy-3-phenyl-propyl)-amino]-ethyl}-phenoxy)-nicotinamide | 0.0239 g, 13% | C(C1=CC=CC=C1)N(CCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1)CCC(C1=CC=CC=C1)O | C30H31N3O3
